US08168666B2
e) Preparation of 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pent-2-yl acetate
5-Hydroxypent-2-yl acetate (58.5 mg), triphenylphosphine (131 mg) and ethyl azodicarboxylate (2.2 mol/L, 200 μL) were added to a mixed solution of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol (69.3 mg, 200 μmol) in tetrahydrofuran (2 mL) at room temperature. After completion of the reaction, the solvent was evaporated, and the residue was purified by silica gel preparative thin-layer chromatography (hexane:ethyl acetate=5:1) to obtain 80.4 mg of the title compound (yield: 85%) as a colorless oil.

reactant | 5-Hydroxypent-2-yl acetate | 58.5 mg | C(C)(=O)OC(C)CCCO | C7H14O3
reactant | triphenylphosphine | 131 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 2.2 mol/L, 200 μL | N(=NC(=O)[O-])C(=O)OCC
reactant | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol | 200 μmol, 69.3 mg | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)O)CCC)(F)F | C14H16F6O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pent-2-yl acetate | 80.4 mg, yield: 85% | C(C)(=O)OC(C)CCCOC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCOC)CCC | C21H28F6O5
